US09024027B2
Step 2: Preparation of (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(6-fluoro-2,3-dioxoindolin-1-yl)acetoxy)-ethyl)pyridine 1-oxide (145)
To a solution of (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (0.200 g, 0.476 mmol) in DCM (15 ml), DMAP (0.058. g, 0.476 mmol), EDC (0.274 g, 1.428 mmol) and 2-(6-fluoro-2,3-dioxoindolin-1-yl)acetic acid (0.127 g, 0.571 mmol) were added in one portion at room temperature. The resulting solution was stirred at room temperature for 24 hours; the solvent was removed under vacuum and the residue was dissolved in ethyl acetate (40 ml), washed with a saturated solution of NaHCO3 (20 ml), with 1N HCl (20 ml) and finally with brine (20 ml). The organic layer was dried over sodium sulfate and the solvent was evaporated under vacuum. The crude was purified by preparative HPLC (Method 1) and two pure fractions were isolated:

reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.476 mmol, 0.200 g | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | EDC | 1.428 mmol, 0.274 g
reactant | 2-(6-fluoro-2,3-dioxoindolin-1-yl)acetic acid | 0.571 mmol, 0.127 g | FC1=CC=C2C(C(N(C2=C1)CC(=O)O)=O)=O | C10H6FNO4
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.476 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(6-fluoro-2,3-dioxoindolin-1-yl)acetoxy)-ethyl)pyridine 1-oxide | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C(C2=CC=C(C=C12)F)=O)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C28H21Cl2F3N2O7
